US04940714
3-Trityl-3H-imidazo[4,5-c]quinoline (III-1)
To a suspension of 5.2 g of 1H-imidazo[4,5-c]quinoline (II-1) in 180 ml of MeCN were added 10.3 g of trityl chloride and 4.2 g of triethylamine, and the mixture was stirred at room temperature for 8 hours. The reaction mixture was concentrated under reduced pressure, and the residue was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate. The organic layer was washed with water and brine, and then dried. The ethyl acetate was removed and the residue was chromatographed on a column of silica gel with ethyl acetate-n-hexane (1:1 v/v). Crystallization of the resulting oily substance from n-hexane gave 12.4 g (yield: 98%) of the titled compound (III-1). This was recrystallized from ethyl acetate-n-hexane to give colorless crystals melting at 190°~192° C.

reactant | 1H-imidazo[4,5-c]quinoline | 5.2 g | N1C=NC=2C=NC=3C=CC=CC3C21 | C10H7N3
reactant | trityl chloride | 10.3 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 4.2 g | C(C)N(CC)CC | C6H15N
solvent | MeCN | 180 ml | CC#N | C2H3N
product | 3-Trityl-3H-imidazo[4,5-c]quinoline | 12.4 g, yield: 98% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC2=C1C=NC=1C=CC=CC21 | C29H21N3
